US07582760B2
To a solution of piperazine-1-carboxylic acid tert-butyl ester (0.204 g, 1.1 mmol) in 1 mL dimethylsulfoxide was added potassium carbonate (0.303 g, 2.2 mmol) followed by 1,3-difluoro-2-nitro-benzene (0.159 g, 1 mmol). The solution was stirred 30 minutes at room temperature, and was then diluted with 50 mL ethyl ether. The organic phase was washed three times with 50 mL water and once with 50 mL brine, dried over sodium sulfated, and concentrated in vacuo to give 0.314 g (0.965 mmol, 96.5%) of 4-(3-fluoro-2-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester as a yellow oil. MS: 226 (M−BOC+H)+.

reactant | piperazine-1-carboxylic acid tert-butyl ester | 1.1 mmol, 0.204 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | potassium carbonate | 2.2 mmol, 0.303 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-difluoro-2-nitro-benzene | 1 mmol, 0.159 g | FC1=C(C(=CC=C1)F)[N+](=O)[O-] | C6H3F2NO2
solvent | dimethylsulfoxide | 1 mL | CS(=O)C | C2H6OS
solvent | ethyl ether | 50 mL | C(C)OCC | C4H10O
product | 4-(3-fluoro-2-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.965 mmol, 0.314 g, 96.5% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC=C1)F)[N+](=O)[O-] | C15H20FN3O4
